US07977331B1
To a suspension of lithium aluminum hydride (2.9.0 g, 76.3 mmol) in tetrahydrofuran (100 ml) was added a solution of 1-tert-butyl 3-ethyl (R)-piperidine-1,3-dicarboxylate (16.30 g, 63.6 mmol) in tetrahydrofuran (60 ml) over 20 min under ice-cooling, and the mixture was further stirred for 20 min. To the reaction mixture were successively added water (2.9 ml), 4N aqueous sodium hydroxide solution (2.9 ml), water (8.7 ml) and anhydrous sodium sulfate, and the mixture was stirred at room temperature for 1 hr. The reaction mixture was filtered, and the solvent was evaporated under reduced pressure to give tert-butyl (R)-3-hydroxymethylpiperidine-1-carboxylate (13.00 g, yield 95.0%).

reactant | lithium aluminum hydride | 76.3 mmol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-tert-butyl 3-ethyl (R)-piperidine-1,3-dicarboxylate | 63.6 mmol, 16.30 g | N1(C[C@@H](CCC1)C(=O)OCC)C(=O)OC(C)(C)C | C13H23NO4
reactant | sodium hydroxide | 4N, 2.9 ml | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 8.7 ml | O | H2O
solvent | water | 2.9 ml | O | H2O
product | tert-butyl (R)-3-hydroxymethylpiperidine-1-carboxylate | 13.00 g, yield 95.0% | OC[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C11H21NO3
